US03952001
A mixture of 9.5 g. 3-n-pentylthio-1,2,4-triazole, 8.07 g. diallylcarbamoyl chloride, 100 ml. dry tetrahydrofuran and 8 ml. dry triethylamine was refluxed under anhydrous conditions for 68 hours. The reaction mixture was worked up as described in Example 1, using ether in place of methylene dichloride, to produce an oil which was distilled under reduced pressure to give 1-diallylcarbamoyl-3-n-pentylthio-1,2,4-triazole, b.p. 135°C./0.1 mm. (90.6% 1-isomer by GLC assay). Elemental analysis satisfactory.

reactant | 3-n-pentylthio-1,2,4-triazole | C(CCCC)SC1=NNC=N1 | C7H13N3S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 1-diallylcarbamoyl-3-n-pentylthio-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)SCCCCC)CC=C | C14H22N4OS
